US07868014B2
(S)-[1-(6-Fluoropyridin-3-yl)-pyrrolidin-3-yl]-(2-bromo-4-chlorobenzyl)-amine
Add 2-bromo-4-chlorobenzaldehyde (159 mg, 0.73 mmol) to a solution of (S)-1-(6-fluoropyridin-3-yl)-pyrrolidin-3-ylamine hydrochloride (144 mg, 0.66 mmol) and triethylamine (292 μL, 2.1 mmol) in methanol (5 mL). Stir the resulting mixture for 18 h. Add sodium borohydride (80 mg, 2.1 mmol). Stir for 1 h. Dilute the reaction mixture with methanol (10 mL) and pour onto a column of Dowex® 50Wx2 (H+ form). Rinse the column with methanol then elute the product with 5% triethylamine in methanol. Concentrate and dissolve the residue in methanol. Dilute with acetonitrile and concentrate to give the title compound as a oil. Dissolve the oil in methanol and add excess 1 N HCl in methanol. Concentrate to dryness and crystallize from methanol/acetonitrile to give the title compound as its hydrochloride salt, an off white solid (84 mg, 30%). Elemental analysis calculated for C16H17BrCl2FN3: C, 45.63; H, 4.07; N, 9.98. Found: C, 45.39; H, 4.02; N, 9.85. MS (ES): m/z=386 [M+H].

reactant | 2-bromo-4-chlorobenzaldehyde | 0.73 mmol, 159 mg | BrC1=C(C=O)C=CC(=C1)Cl | C7H4BrClO
reactant | (S)-1-(6-fluoropyridin-3-yl)-pyrrolidin-3-ylamine hydrochloride | 0.66 mmol, 144 mg | Cl.FC1=CC=C(C=N1)N1C[C@H](CC1)N
reactant | triethylamine | 2.1 mmol, 292 μL | C(C)N(CC)CC | C6H15N
reactant | sodium borohydride | 2.1 mmol, 80 mg | [BH4-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
solvent | methanol | 10 mL | CO | CH4O
product | (S)-[1-(6-Fluoropyridin-3-yl)-pyrrolidin-3-yl]-(2-bromo-4-chlorobenzyl)-amine | FC1=CC=C(C=N1)N1C[C@H](CC1)NCC1=C(C=C(C=C1)Cl)Br | C16H16BrClFN3
